US06576762B2
d) 4-(tert-Butyl-dimethyl-silanyloxy)-4′-(2-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide
A mixture of 480 mg (1.01 mmol) 4-(tert-butyl-dimethyl-silanyloxy)-4′-iodo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide, 174 mg (1.11 mmol) 2-chlorophenylboronic acid, 6 ml dimethoxyethane and 1 ml of a 2 M aqueous solution of sodium carbonate was deoxygenated by three freeze-thaw cycles. After addition of 60 mg (0.052 mmol) tetrakis(triphenylphosphine)palladium(0) the reaction mixture was stirred at 90° C. for 3 h. Cooling to room temperature was followed by dilution with water and extraction with ethyl acetate. The organic extract was washed with saturated aqueous sodium carbonate and sodium chloride solutions, dried with sodium sulfate and concentrated. Column chromatography afforded 425 mg (91.5%) of the title compound as an off-white solid.

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-4′-iodo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide | 1.01 mmol, 480 mg | CNC(=O)C=1C(=CC(=NC1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C)I | C18H30IN3O2Si
reactant | 2-chlorophenylboronic acid | 1.11 mmol, 174 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 6 ml | C(OC)COC | C4H10O2
product | 4-(tert-Butyl-dimethyl-silanyloxy)-4′-(2-chloro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid methylamide | 425 mg, 91.5% | CNC(=O)C=1C(=CC(=NC1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)Cl | C24H34ClN3O2Si
